US05602075
16. Preparation of N-(2,6-Dichlorophenyl)-5,8-dimethoxy-[1,2,4]triazolo[1,5-a]pyrazine-2-sulfonamide
A solution of 0.42 g (0.92 mmol) of N-(2,6-dichlorophenyl)-5-bromo-8-chloro[1,2,4]triazolo[1,5-a]-pyrazine-2-sulfonamide in 30 mL of dry acetonitrile was combined with 2.8 mL (5.6 mmol) of a 2M solution of sodium methoxide in methanol and the mixture was warmed to 40° C. under a nitrogen atmosphere with stirring. After 24 hours, the reaction was quenched with 1 mL of glacial acetic acid and the solvent was removed under reduced pressure. The residue was extracted portionwise with up to 100mL of tetrahydrofuran and the cloudy extract obtained was filtered and concentrated by evaporation under reduced pressure. The title compound was isolated from the residue obtained by flash column chromatography on silica gel using a 2 to 10 percent ethanol/dichloromethane gradient as eluent. The title compound, which was the least polar of the three compounds present, was further purified by extraction with warm methanol and diethyl ether mixtures to obtain 46 mg (12 percent of theory) as a white powder melting above 250° C. with decomposition.

reactant | N-(2,6-dichlorophenyl)-5-bromo-8-chloro[1,2,4]triazolo[1,5-a]-pyrazine-2-sulfonamide | 0.92 mmol, 0.42 g | ClC1=C(C(=CC=C1)Cl)NS(=O)(=O)C1=NN2C(C(=NC=C2Br)Cl)=N1 | C11H5BrCl3N5O2S
reactant | sodium methoxide | C[O-].[Na+]
reactant | methanol | CO | CH4O
solvent | acetonitrile | 30 mL | C(C)#N | C2H3N
product | N-(2,6-Dichlorophenyl)-5,8-dimethoxy-[1,2,4]triazolo[1,5-a]pyrazine-2-sulfonamide | ClC1=C(C(=CC=C1)Cl)NS(=O)(=O)C1=NN2C(C(=NC=C2OC)OC)=N1 | C13H11Cl2N5O4S
